US08859504B2
Synthesis of N—((S)-1-((R)-3-methyl-1-(4-oxo-4H-benzo[d][1,3,2]dioxaborinin-2-yl)butylamino)-1-oxo-3-phenylpropan-2-yl)pyrazine-2-carboxamide (I-19)
A mixture of N,N′,N″-(boroxin-2,4,6-triyltris{[(1R)-3-methylbutane-1,1-diyl]imino[(2S)-1-oxo-3-phenylpropane-1,2-diyl]})tripyrazine-2-carboxamide (0.250 g, 0.228 mmol) and salicyclic acid (269.6 mg, 0.68 mmol) were mixed in EtOAc (10 mL). The mixture was heated to form a solution. The solution was cooled uncontrolled until the internal temperature was about 25° C. Heptane (16 mL) was added. White solid precipitated out and the resultant slurry was agitated at ambient temperature for 3 h. The slurry was filtered to collect solid N—((S)-1-((R)-3-methyl-1-(4-oxo-4H-benzo[d][1,3,2]dioxaborinin-2-yl)butylamino)-1-oxo-3-phenylpropan-2-yl)pyrazine-2-carboxamide (0.249 g, 75%). MS (m/z) in CH3CN: [M+H] calculated for C26H28BN4O5, 487.2153. found, 487.3.

reactant | N,N′,N″-(boroxin-2,4,6-triyltris{[(1R)-3-methylbutane-1,1-diyl]imino[(2S)-1-oxo-3-phenylpropane-1,2-diyl]})tripyrazine-2-carboxamide | 0.228 mmol, 0.250 g | O1B(OB(OB1[C@H](CC(C)C)NC([C@H](CC1=CC=CC=C1)NC(=O)C1=NC=CN=C1)=O)[C@H](CC(C)C)NC([C@H](CC1=CC=CC=C1)NC(=O)C1=NC=CN=C1)=O)[C@H](CC(C)C)NC([C@H](CC1=CC=CC=C1)NC(=O)C1=NC=CN=C1)=O | C57H69B3N12O9
reactant | salicyclic acid | 0.68 mmol, 269.6 mg | C1=CC=C(C(=C1)C(=O)O)O | C7H6O3
reactant | Heptane | 16 mL | CCCCCCC | C7H16
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | N—((S)-1-((R)-3-methyl-1-(4-oxo-4H-benzo[d][1,3,2]dioxaborinin-2-yl)butylamino)-1-oxo-3-phenylpropan-2-yl)pyrazine-2-carboxamide | CC(C[C@@H](B1OC(C2=C(O1)C=CC=C2)=O)NC([C@H](CC2=CC=CC=C2)NC(=O)C2=NC=CN=C2)=O)C | C26H27BN4O5
